* C:\Users\micha\Projects\Altium-Projects\trunk\Vinyl\Discrete\LTSpice\RIAA.asc
Q1 N003 N004 N005 0 BC547C
Q2 N007 N003 N002 0 BC557C
R1 N001 N004 680K
R2 N004 0 470K
R3 N001 N003 47K
R4 N005 0 33K
R5 N005 N009 100
R6 N006 N005 8K2
R7 N007 N006 150K
R8 N001 N002 4K7
R9 N007 0 4K7
R10 N008 0 3K3
R11 OUT 0 100K
Q3 N001 N007 N008 0 BC547C
C1 N004 IN 1µF
C2 0 N009 220µF
C3 N005 N006 10nF
C4 N006 N007 33nF
C5 N001 N002 47µF
C6 OUT N008 10µF
V1 IN 0 AC 1
V2 N001 0 9.7V
.model NPN NPN
.model PNP PNP
.lib C:\Users\micha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 1000 1 100K
.four 1KHz 10 V(out)
.four 1KHz 10 V(in)
.OPTIONS plotwinsize=0
.OPTIONS numdgt=7
.backanno
.end
